US08460888B2
The coding sequence of the VHH was subcloned in vector pET 22 using the NcoI and NotI restriction sites according to the manufacturer's instructions (Novagen, Darmstadt, Germany). Transformed E. coli BL 21 (DE3) cells expressed VHHs in the periplasm after induction by IPTG 1 mM for 18 hours at 15° C. Periplasmic extracts were obtained by spheroplasting cells, suspended in 50 mM sodium phosphate buffer pH 8 containing 20% sucrose and 1 mM EDTA, and hydrolysing the peptidoglycan with 5 mg/ml lysozyme for 20 min at 4° C., in the presence of protease inhibitors (Complete™, Boehringer Mannheim, Germany). The suspension was then centrifuged 2 min at 10,000 rpm. The supernatant corresponding to the periplasmic extract was kept at 4° C. Purified VHHs were obtained by IMAC using a chelating agarose column charged with Ni2+ (Superflow Ni-NTA, Qiagen Ltd, UK) according to manufacturer's instructions. Purified VHH were dialysed against PBS and the protein content was measured using the Bradford reagent. The purity of the final preparation was evaluated by SDS-PAGE with Coomassie staining and by Western blot.

reactant | IPTG | 1 mM | CC(C)S[C@H]1[C@@H]([C@H]([C@H]([C@H](O1)CO)O)O)O | C9H18O5S
reactant | sucrose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | EDTA | 1 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
solvent | sodium phosphate | 50 mM, pH 8 | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
product | IMAC | C1=C(NC=N1)CC(=O)O | C5H6N2O2
